US04377699
A mixture of 714 g (6 moles) of indoline and 1500 ml of chloroform and 528 g (6.6 moles) of aqueous sodium hydroxide solution (50%) was stirred at 20° to 30° C. while adding 928 g (6.6 moles) of benzoyl chloride thereto and the mixture was stirred for one hour after which 300 ml of water and 351 g (3.3 moles) of sodium carbonate were added thereto. 468.5 g (6.6 moles) of chlorine were added to the mixture with vigorous stirring and water cooling over 51/2 hours to keep the temperature below 30° C. The mixture was stirred for 30 minutes and after the addition of 1500 ml of water, the mixture was stirred for 15 minutes. The decanted organic phase was evaporated to dryness under reduced pressure at 130° C. and the residue was taken up in 1200 ml of isopropanol. The mixture was heated with stirring until complete dissolution occured and the mixture was cooled and stirred at 20°-25° C. for one hour. The mixture was vacuum filtered to obtain 5-chloro-1-benzoyl-indoline melting at 135°- 136° C.

reactant | indoline | 6 moles, 714 g | N1CCC2=CC=CC=C12 | C8H9N
reactant | sodium hydroxide | 6.6 moles, 528 g | [OH-].[Na+]
reactant | benzoyl chloride | 6.6 moles, 928 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | sodium carbonate | 3.3 moles, 351 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | chlorine | 6.6 moles, 468.5 g | ClCl | Cl2
solvent | water | 1500 ml | O | H2O
solvent | water | 300 ml | O | H2O
solvent | chloroform | 1500 ml | C(Cl)(Cl)Cl | CHCl3
product | 5-chloro-1-benzoyl-indoline | ClC=1C=C2CCN(C2=CC1)C(C1=CC=CC=C1)=O | C15H12ClNO
